US09376422B2
Step 1: Synthesis of methyl 5-chloro-3-(ethyl((tetrahydro-2H-pyran-4-yl)methyl)amino)-2-methylbenzoate
To a stirred solution of methyl 5-chloro-2-methyl-3-(((tetrahydro-2H-pyran-4-yl)methyl)amino)benzoate (0.40 g, 1.35 mmol) and acetaldehyde (0.120 g, 2.71 mmol) in dichloroethane (5 mL), acetic acid (0.48 g, 8.1 mmol) was added and the reaction stirred at room temperature for 10 minutes. Then sodium triacetoxyborohydride (0.663 g, 4.05 mmol) was added at 0° C. and the reaction stirred for 3 h at room temperature. On completion, the solvent was removed under reduced pressure and the crude material purified by column chromatography to the title compound (0.38 g, 86%).

reactant | methyl 5-chloro-2-methyl-3-(((tetrahydro-2H-pyran-4-yl)methyl)amino)benzoate | 1.35 mmol, 0.40 g | ClC=1C=C(C(=C(C(=O)OC)C1)C)NCC1CCOCC1 | C15H20ClNO3
reactant | acetaldehyde | 2.71 mmol, 0.120 g | C(C)=O | C2H4O
reactant | acetic acid | 8.1 mmol, 0.48 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 4.05 mmol, 0.663 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | methyl 5-chloro-3-(ethyl((tetrahydro-2H-pyran-4-yl)methyl)amino)-2-methylbenzoate | ClC=1C=C(C(=C(C(=O)OC)C1)C)N(CC1CCOCC1)CC | C17H24ClNO3
